US04812164
1.70 g of 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone are added at room temperature while stirring to a suspension of 0.22 g of a 55% sodium hydride dispersion in 25 ml of dimethylformamide and the mixture is stirred for 1 hour. Subsequently, the previously prepared solution of 2-[(isopropylideneamino)oxy]-ethyl trifluoromethanesulphonate is added at 0° C. and the mixture is stirred for 30 minutes. The reaction mixture is washed twice with 100 ml of water each time and the organic phase is dried over anhydrous sodium sulphate and evaporated to dryness under reduced pressure. The residue is purified by chromatography on a silica gel column using n-hexane/diethyl ether (2:1) as the eluent. The product is recrystallized from n-hexane/diethyl ether. There is obtained 1-[4-chloro-2-fluoro-5-{2-[(isopropylideneamino)oxy] -ethoxy} -phenyl]-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone, m.p. 136°-138° C.

reactant | 1-(4-chloro-2-fluoro-5-hydroxyphenyl)-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | 1.70 g | ClC1=CC(=C(C=C1O)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C12H7ClF4N2O3
reactant | sodium hydride | [H-].[Na+]
reactant | 2-[(isopropylideneamino)oxy]-ethyl trifluoromethanesulphonate | FC(S(=O)(=O)OCCON=C(C)C)(F)F | C6H10F3NO4S
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1-[4-chloro-2-fluoro-5-{2-[(isopropylideneamino)oxy] -ethoxy} -phenyl]-2-methoxy-4-trifluoromethyl-6(1H)-pyrimidinone | ClC1=CC(=C(C=C1OCCON=C(C)C)N1C(=NC(=CC1=O)C(F)(F)F)OC)F | C17H16ClF4N3O4
